US08536157B2
A solution of 3′-fluoro-4′-hydroxyacetophenone (0.063 g, 0.411 mmol), O-(4-nitrobenzyl)hydroxylamine hydrochloride (0.100 g, 0.491 mmol) and pyridine (0.13 ml, 1.61 mmol) in ethanol (5 ml) was stirred at reflux under nitrogen for 5h and cooled to room temperature. The solution was concentrated to a pale yellow oil which was diluted with dichloromethane/water. The resultant mixture was extracted with dichloromethane (×3). The combined organic phases were washed with water and brine, dried over magnesium sulphate, filtered and concentrated to an off-white solid. The crude product was purified by column chromatography (SiO2), eluting with 8:2 petrol/ethyl acetate, to give a 3′-fluoro-4′-hydroxyacetophenone-O-4-nitrobenzyloxime (CP9-132) as light yellow solid (0.081 g, 65%),

reactant | 3′-fluoro-4′-hydroxyacetophenone | 0.411 mmol, 0.063 g | FC=1C=C(C=CC1O)C(C)=O | C8H7FO2
reactant | O-(4-nitrobenzyl)hydroxylamine hydrochloride | 0.491 mmol, 0.100 g | Cl.[N+](=O)([O-])C1=CC=C(CON)C=C1
reactant | pyridine | 1.61 mmol, 0.13 ml | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 3′-fluoro-4′-hydroxyacetophenone-O-4-nitrobenzyloxime | [N+](=O)([O-])C1=CC=C(CON=C(C)C2=CC(=C(C=C2)O)F)C=C1 | C15H13FN2O4
